US04783530
1,3-Dipropyl-8-(4-cyanophenyl)xanthine was prepared by treatment of 1,3-dipropyl-5,6-diaminouracil (6.37 g, 28.15 mmol) with 4-cyanobenzaldehyde (3.72 g, 28.37 mmol) in absolute ethanol (175 ml) with acetic acid (5 ml) heated at reflux for 2 hours. The reaction mixture was then cooled to 0° C., and the resulting precipitate collected, and recrystallized from ethanol yielding a white solid (8.1 g, 24.0 mmol, 85%) IR (KBr) 3142 (N--H), 2965 (C--H), 2232 (C=N), 1695 (C=O), 1651 (C=O) cm-1 ; 1H NMR (DMSO d6) δ8.2 (d,J=8 Hz, 6H). Anal. Calcd. for C18H19N4O21, MW. 337.38: C, 64.08; H, 5.68; N, 20.76. Found: C, 64.15, H, 5.69; N, 20.72.

reactant | 1,3-dipropyl-5,6-diaminouracil | 28.15 mmol, 6.37 g | C(CC)N1C(=O)N(C(=O)C(=C1N)N)CCC | C10H18N4O2
reactant | 4-cyanobenzaldehyde | 28.37 mmol, 3.72 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | KBr | [K+].[Br-]
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 1,3-Dipropyl-8-(4-cyanophenyl)xanthine | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)C#N)CCC | C18H19N5O2
